US06756378B2
To a stirred solution of methyl 3-chloro-2-[[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy]pyridine-5-carboxylate (235.6 mg, 0.635 mmol) in CH2Cl2 (5.0 mL) was added TFA (1.0 mL) at 0° C., and the reaction mixture was stirred at room temp for 2 hr. The solvent was removed under a reduced pressure. The residue was made basic by the addition of 1N NaOH and extracted with CHCl3. The extract was dried over Na2SO4, concentrated under a reduced pressure to afford 172.3 mg (q.y.) methyl 3-chloro-2-[(2-pyrrolidinyl)methoxy]pyridine-5-carboxylate as a pale yellowish oil. 1H-NMR (400 MHz, CDCl3) δ1.55-1.63 (m, 1HR), 1.76-1.99 (m, 3H), 2.93-2.99 (m, 1H), 3.02-3.08 (m, 1H), 3.57-3.62 (m, 1H), 3.92 (s, 3H), 4.33 (dd, J=7.3, 10.7 Hz, 1H), 4.44 (dd, J 4.4, 10.7 Hz, 1H), 8.21 (d, J=2.0 Hz, 1H), 8.67 (d, J=2.0 Hz, 1H); MS (FAB) m/z 271 (M++1).

reactant | methyl 3-chloro-2-[[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy]pyridine-5-carboxylate | 0.635 mmol, 235.6 mg | ClC=1C(=NC=C(C1)C(=O)OC)OCC1N(CCC1)C(=O)OC(C)(C)C | C17H23ClN2O5
reactant | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-chloro-2-[(2-pyrrolidinyl)methoxy]pyridine-5-carboxylate | 172.3 mg | ClC=1C(=NC=C(C1)C(=O)OC)OCC1NCCC1 | C12H15ClN2O3
